US07470664B2
(2S)-({[(2,2-Dimethylhex-5-en-1-yl)oxy]carbonyl}amino)(1-methylcyclohexyl)acetic acid was prepared according to the procedure for 3-methyl-N-[(pent-4-enyloxy)carbonyl]-L-valine using (2S)-amino(1-methylcyclohexyl)acetic acid-HCl and 2,2-dimethylhex-5-en-1-ol. LRMS (ESI) m/z 326.3 [(M+H)+; calcd for C18H32NO4: 326.2].

reactant | 3-methyl-N-[(pent-4-enyloxy)carbonyl]-L-valine | CC([C@H](NC(=O)OCCCC=C)C(=O)O)(C)C | C12H21NO4
reactant | (2S)-amino(1-methylcyclohexyl)acetic acid-HCl | Cl.N[C@H](C(=O)O)C1(CCCCC1)C
reactant | 2,2-dimethylhex-5-en-1-ol | CC(CO)(CCC=C)C | C8H16O
product | (2S)-({[(2,2-Dimethylhex-5-en-1-yl)oxy]carbonyl}amino)(1-methylcyclohexyl)acetic acid | CC(COC(=O)N[C@H](C(=O)O)C1(CCCCC1)C)(CCC=C)C | C18H31NO4
